US08541588B2
4-(2-azetidin-3-yl-4-chlorophenoxy)-5-chloro-N-(5-chloro-1,3-thiazol-2-yl)-2-fluorobenzenesulfonamide
5-Chloro-N-(5-chloro-1,3-thiazol-2-yl)-N-(2,4-dimethoxybenzyl)-2,4-difluorobenzenesulfonamide (Preparation 655) and tert-butyl 3-(5-chloro-2-hydroxyphenyl)azetidine-1-carboxylate (Preparation 237) were stirred in dichloromethane (2 ml) and trifluoroacetic acid (1 ml) to prepare the title compound using Method F above but where the N,N-dimethylformamide was replaced with dimethyl sulphoxide. The crude product was concentrated in vacuo and purified by preparative HPLC to afford the title compound.

reactant | 5-Chloro-N-(5-chloro-1,3-thiazol-2-yl)-N-(2,4-dimethoxybenzyl)-2,4-difluorobenzenesulfonamide | ClC=1C(=CC(=C(C1)S(=O)(=O)N(CC1=C(C=C(C=C1)OC)OC)C=1SC(=CN1)Cl)F)F | C18H14Cl2F2N2O4S2
reactant | tert-butyl 3-(5-chloro-2-hydroxyphenyl)azetidine-1-carboxylate | ClC=1C=CC(=C(C1)C1CN(C1)C(=O)OC(C)(C)C)O | C14H18ClNO3
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 4-(2-azetidin-3-yl-4-chlorophenoxy)-5-chloro-N-(5-chloro-1,3-thiazol-2-yl)-2-fluorobenzenesulfonamide | N1CC(C1)C1=C(OC2=CC(=C(C=C2Cl)S(=O)(=O)NC=2SC(=CN2)Cl)F)C=CC(=C1)Cl | C18H13Cl3FN3O3S2
